US05225402
To a solution of 1-[4-(4-methoxyanilinocarbonyl)-phenyl]-3,4-dihydrocarbostyril (0.2 g) in dimethylformamide (15 ml) is added 60% sodium hydride (24 mg) with stirring under ice cooling and the mixture is stirred at room temperature for 0.5 hour. Then, thereto is added a solution of ethyl bromide (64 mg) in dimethylformamide (DMF, 1 ml) and the mixture is refluxed with heating for 1 hour. DMF is distilled off under reduced pressure and water is added to the residue and the mixture is extracted with dichloromethane. The extract is washed with water and dried with magnesium sulfate. The solvent is distilled off under reduced pressure and the resulting residue is purified by silica gel column chromatography to give 1-[4-(N-ethyl-4-methoxyanilinocarbonyl)phenyl]-3,4-dihydrocarbostyril (0.12 g).

reactant | 1-[4-(4-methoxyanilinocarbonyl)-phenyl]-3,4-dihydrocarbostyril | 0.2 g | COC1=CC=C(NC(=O)C2=CC=C(C=C2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C23H20N2O3
reactant | sodium hydride | 24 mg | [H-].[Na+]
reactant | ethyl bromide | 64 mg | C(C)Br | C2H5Br
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-[4-(N-ethyl-4-methoxyanilinocarbonyl)phenyl]-3,4-dihydrocarbostyril | 0.12 g | C(C)N(C1=CC=C(C=C1)OC)C(=O)C1=CC=C(C=C1)N1C(=O)CCC2=CC=CC=C12 | C25H24N2O3
